US08664234B2
To a solution of 6-bromo-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one (1.00 g, 2.67 mmol) in CH2Cl2 (40 mL) was added DMAP (1.68 g, 13.3 mmol) and then tert-butyl dimethylsilyl trifluoromethane sulfonate (1.84 mL, 8.00 mmol) and the reaction was stirred overnight. The reaction was diluted with saturated, aqueous NaHCO3 and extracted 1× with CH2Cl2. The organics were washed with brine, dried over MgSO4, filtered, concentrated, and dried. The oily residue was purified via silica gel chromatography, eluting with 5-55% ethyl acetate in hexanes to provide 1,5-anhydro-3-(6-bromo-4-oxobenzo quinazolin-3(4H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol that gave a mass ion (ES+) of 490.8 for [M+H]+.

reactant | 6-bromo-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one | 2.67 mmol, 1.00 g | BrC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O)=O | C17H15BrN2O3
reactant | tert-butyl dimethylsilyl trifluoromethane sulfonate | 8.00 mmol, 1.84 mL | CC(C)(C)[Si](C)(C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 13.3 mmol, 1.68 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1,5-anhydro-3-(6-bromo-4-oxobenzo quinazolin-3(4H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol | BrC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O[Si](C)(C)C(C)(C)C)=O | C23H29BrN2O3Si
